US09023852B2
b) 4-(5-{4-[2-(4-Methoxy-phenyl)-ethyl]-piperazin-1-yl}-[1,2,4]thiadiazol-3-yl)-benzonitrile
A 5 ml micro wave vial was charged with 3-chloro-5-(4-(4-methoxyphenethyl)piperazin-1-yl)-1,2,4-thiadiazole (50 mg, 148 μmol) in 3 mL DME. 4-Cyanophenylboronic acid (26.0 mg, 177 μmol), Na2CO3 (18.8 mg, 177 μmol), tetrakis(triphenylphosphine) palladium (0) (3.41 mg, 2.95 μmol) and water (1.5 mL) was added. The vial was capped and the mixture was heated in oil bath at 110° C. over night. 2 mL EtOAc were added and the aqueous part was separated. The organic layer was dried over Na2SO4, filtered off and concentrated in vacuo. The crude product was dissolved in MeCN (3 mL)/DIPEA (100 μL) and purified by preparative HPLC on reversed phase eluting with a gradient formed from MeCN, water and NEt3 to yield, after evaporation of the product containing fractions, 13.6 mg (23%) of the title compound as white solid. MS (m/e): 406.3 (MH+).

reactant | 3-chloro-5-(4-(4-methoxyphenethyl)piperazin-1-yl)-1,2,4-thiadiazole | 148 μmol, 50 mg | ClC1=NSC(=N1)N1CCN(CC1)CCC1=CC=C(C=C1)OC | C15H19ClN4OS
reactant | 4-Cyanophenylboronic acid | 177 μmol, 26.0 mg | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | Na2CO3 | 177 μmol, 18.8 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 1.5 mL | O | H2O
solvent | DME | 3 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine) palladium (0) | 2.95 μmol, 3.41 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
product | 4-(5-{4-[2-(4-Methoxy-phenyl)-ethyl]-piperazin-1-yl}-[1,2,4]thiadiazol-3-yl)-benzonitrile | COC1=CC=C(C=C1)CCN1CCN(CC1)C1=NC(=NS1)C1=CC=C(C#N)C=C1 | C22H23N5OS
